US04824958
Methyl 4-bromo-3-[(dimethylamino)thioxomethoxy]-5-methyl-2-thiophenecarboxylate.
Methyl 4-bromo-3-hydroxy-5-methyl-2-thiophenecarboxylate (2.5 g, 10 mmoles) is stirred under argon in DMF (20 mL). Dimethylthiocarbamyl chloride (2.65 g, 21 mmoles) and 1,4-diazabicyclo[2.2.2]octane (2.4 g, 21 mmoles) are added. The mixture is stirred at room temperature for 2 hours, then at 50° C. for 20 hours, then poured into ice water (200 mL) and extracted twice with toluene. The combined extracts are washed successively with 2N HCl, water, 0.5 M NaHCO3, and water, then dried over MgSO4. Removal of the solvent under reduced pressure, followed by recrystallization from ethyl acetate affords the product (2.7 g); mp 152°-154° C.

reactant | Methyl 4-bromo-3-hydroxy-5-methyl-2-thiophenecarboxylate | 10 mmoles, 2.5 g | BrC=1C(=C(SC1C)C(=O)OC)O | C7H7BrO3S
reactant | Dimethylthiocarbamyl chloride | 21 mmoles, 2.65 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | 1,4-diazabicyclo[2.2.2]octane | 21 mmoles, 2.4 g | N12CCN(CC1)CC2 | C6H12N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 4-bromo-3-[(dimethylamino)thioxomethoxy]-5-methyl-2-thiophenecarboxylate | 2.7 g | BrC=1C(=C(SC1C)C(=O)OC)OC(=S)N(C)C | C10H12BrNO3S2
